US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 4-chloroaniline were reacted to yield N2,N4-bis(4-chlorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3+CD3OD): δ 7.80 (d, 1H, J=4.2 Hz), 7.45 (d, 2H, J=8.7 Hz), 7.33 (d, 2H, J=9 Hz), 7.20 (d, 2H, J=8.7 Hz), 7.14 (d, 2H, J=9.6 Hz); LCMS: ret. time: 28.84 min.; purity: 87%; MS (m/e): 349 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | N2,N4-bis(4-chlorophenyl)-5-fluoro-2,4-pyrimidinediamine | ClC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)Cl)F | C16H11Cl2FN4
